US07714099B2
2-(4,7-bis(4-(dimethylamino)phenyl)-2H-benzotriazol-2-yl)-4,6-di-tert-butylphenol
To a 40 mL glass vial, was added 4-(dimethylamino)phenylboronic acid (0.0858 g, 0.520 mmol), 2,4-di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol (0.1251 g, 0.260 mmol), toluene (0.65 mL), phase transfer catalyst (Aliquat 366®, 60% in toluene, 0.35 mL), tetrakis (triphenylphosphine) palladium in toluene (0.0104 M, 1.0 ml), and 0.8 mL of 2M degassed aqueous potassium carbonate. The vial was heated on an orbital shaker at 95° C. for 20 hours. After cooling to room temperature, methanol was added to the reaction mixture. Yellow crystals of product were collected after filtration and washed with DI water. Photoluminescence spectrometry of a dilute solution of the product in dichloromethane showed strong emission centered at 569 nm.

reactant | 4-(dimethylamino)phenylboronic acid | 0.520 mmol, 0.0858 g | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | 2,4-di-tert-butyl-6-(4,7-dibromo-benzotriazol-2-yl)-phenol | 0.260 mmol, 0.1251 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C(=CC=C2Br)Br)O | C20H23Br2N3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.0104 M, 1.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis (triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 0.65 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4,7-bis(4-(dimethylamino)phenyl)-2H-benzotriazol-2-yl)-4,6-di-tert-butylphenol | CN(C1=CC=C(C=C1)C1=CC=C(C2=NN(N=C21)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O)C2=CC=C(C=C2)N(C)C)C | C36H43N5O
